US06252080B1
4,8-Dihydroxy-2-(trifluoromethyl)-7-quinolinecarboxylic acid
2-Trifluoromethyl-4,8-dihydroxyquinoline (6.0 g) and K2CO3 (11.0 g) are mixed in a stainless steel bomb. The bomb is flushed and evacuated 3× with 100 psi CO2. The reaction vessel is then pressurized to 800 psi CO2 and heated to 170° C., reaching a final pressure of 1200 psi. The bomb remains at this temperature and pressure for 7 days. The reaction vessel is cooled to room temperature, the pressure is released, and the reaction mixture is dissolved in 300 mL hot water. Any undissolved material is filtered and the filtrate is acidified with conc. HCl. A precipitate at pH 7 is collected (starting material). The filtrate is further acidified to pH 4 where a tan solid is collected (starting material+desired product). Since most of the solid collected is starting material, this material is reacted in the bomb for 7 more days. The same workup as before is done, with the only precipitate collected at pH 4.5. The desired product is filtered, dried, and recrystallized very slowly with EtOAc/hexanes (0.41 g).

reactant | 2-Trifluoromethyl-4,8-dihydroxyquinoline | 6.0 g | FC(C1=NC2=C(C=CC=C2C(=C1)O)O)(F)F | C10H6F3NO2
reactant | K2CO3 | 11.0 g | C(=O)([O-])[O-].[K+].[K+]
product | 4,8-Dihydroxy-2-(trifluoromethyl)-7-quinolinecarboxylic acid | OC1=CC(=NC2=C(C(=CC=C12)C(=O)O)O)C(F)(F)F | C11H6F3NO4
